US09108977B2
To ethyl 7-amino-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate was added a 5% aqueous sulfuric acid solution, followed by stirring under ice-cooling. An aqueous solution (30 ml) of 10.22 g of sodium nitrite was added dropwise in portions thereto, and followed by stirring at the same temperature for 0.5 hours and then stirring at 60° C. for 3 hours. The reaction mixture was extracted with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain a crude purified product having ethyl 7-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate as a main component. The crude purified product was recrystallized from ethyl acetate twice to obtain 15.66 g of ethyl 7-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate.

reactant | ethyl 7-amino-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | NC1=CC2=C(CCN(CC2)C(=O)OCC)C=C1 | C13H18N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | sodium nitrite | 30 ml, 10.22 g | N(=O)[O-].[Na+]
product | ethyl 7-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 15.66 g | OC1=CC2=C(CCN(CC2)C(=O)OCC)C=C1 | C13H17NO3
